US05494910
(i) 5-Bromo-N,N-dimethyl-3benzofuranacetamide
Dimethyl [2-(dimethylamino)-2-oxoethyl]phosphonate (5 g) was added to a stirred suspension of sodium hydride (1.02 g of a 60% dispersion in oil) in dry THF (100 ml) at 0° under nitrogen. After stirring for 15 minutes 5-bromo-3-(2H)-benzofuranone (5.0 g) in THF (20 ml) was added dropwise and stirred at room temperature for 3 h. Water (50 ml) was added and the mixture extracted with ethyl acetate (3×50 ml), dried and the solvent removed in vacuo. The crude material was purified by flash chromatography using 50% ethyl acetate/hexane as eluant to yield the title compound as a pale yellow solid m.p. 92°-94° C.

reactant | Dimethyl [2-(dimethylamino)-2-oxoethyl]phosphonate | 5 g | CN(C(CP(OC)(OC)=O)=O)C | C6H14NO4P
reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromo-3-(2H)-benzofuranone | 5.0 g | BrC=1C=CC2=C(C(CO2)=O)C1 | C8H5BrO2
reactant | Water | 50 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-Bromo-N,N-dimethyl-3benzofuranacetamide | BrC1=CC2=C(OC(=C2)CC(=O)N(C)C)C=C1 | C12H12BrNO2
